US05493030
A solution of 1-[2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-1-hydroxyeth-1-yl]cyclopent-1-ene (0.22 g) in triethylorthoacetate (10 ml) was treated with pivalic acid (0.010 g) and then heated to 100° C., and maintained at that temperature for 18 hours. After cooling to ambient temperature, the solution was diluted with 1:1 ethyl acetate:hexanes and washed sequentially with water, saturated aqueous sodium bicarbonate, and brine. Drying over magnesium sulfate was followed by evaporation; chromatography of the residue on silica gel (10% ethyl acetate in hexanes) afforded ethyl (E) 2-[2-[2-[4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]ethylidene]-cyclopent-1-yl]acetate (0.11 g) as an oil.

reactant | 1-[2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-1-hydroxyeth-1-yl]cyclopent-1-ene | 0.22 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1CC(O)C1=CCCC1)OC)C)=O | C23H34O5Si
reactant | pivalic acid | 0.010 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylorthoacetate | 10 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (E) 2-[2-[2-[4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl]ethylidene]-cyclopent-1-yl]acetate | 0.11 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C\C=C/1\C(CCC1)CC(=O)OCC)OC)C)=O | C27H40O6Si
